US05006537
To a stirred solution of 1-(propylamino)-oxindole (10.4 g) and phenol (30.8 g), preheated to 150° C. under nitrogen, was added 4-bromopyridine hydrochloride (11.04 g) over 5 min. Heating was continued for 7 hours at which time the reaction mixture was cooled to room temperature and made basic by slow addition of dilute aqueous sodium hydroxide. The product was extracted four times with ethyl acetate and the combined organic layers back-extracted with dilute aqueous sodium hydroxide, washed with brine, and dried (K2CO3). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, EtOAc), preparative high performance liquid chromatography (HPLC) (silica gel, EtOAc→2% Et3N/0-7% MeOH/EtOAc), and a third column (alumina, EtOAc) followed. Recrystallization from ethyl acetate-pentane afforded 2.10 g (14%) of 1,3-dihydro-1-(propyl-4-pyridinylamino)-2H-indol-2-one, as a solid, m.p. 140°-143° C.

reactant | 1-(propylamino)-oxindole | 10.4 g | C(CC)NN1C(CC2=CC=CC=C12)=O | C11H14N2O
reactant | phenol | 30.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-bromopyridine hydrochloride | 11.04 g | Cl.BrC1=CC=NC=C1
reactant | sodium hydroxide | [OH-].[Na+]
product | 1,3-dihydro-1-(propyl-4-pyridinylamino)-2H-indol-2-one | 2.10 g, 14% | C(CC)N(N1C(CC2=CC=CC=C12)=O)C1=CC=NC=C1 | C16H17N3O
